datasets/RMG-dataset.csv
rxn,Ea
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17])([H:9])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:9])([H:10])[H:11])([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17],52.7184
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5][O:6][H:17])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],36.8192
[C:0]([C:1]([N:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9]>>[C:0]([C:1]([N:2]=[O:3])[H:8])([H:4])([H:5])[H:6].[H:7][H:9],1.581552
[C:0](=[S:1])([H:2])[H:3].[S:4][H:5]>>[C:0]([S:1][S:4][H:5])([H:2])[H:3],-25.104
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([C:8]#[C:9][H:12])[H:11])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:10])([C:8]#[C:9][H:12])[H:11],114.642
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([S:13][H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:14])([H:15])[H:16])([S:13][H:18])[H:17],-1.6736
[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])[H:7]>>[C:0]([C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])([H:7])[H:8],141.001
[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([H:6])[H:7])[H:8])([H:4])[H:5],151.879
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11](=[S:12])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10]([C:11]=[S:12])([H:13])([H:14])[H:15],115.186
[C:0](=[N:1])([H:2])[H:3].[O:4][H:5]>>[C:0](#[N:1])[H:3].[H:2][O:4][H:5],-4.97896
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28],-17.1544
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],19.2464
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][H:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])[H:12])([H:8])([H:9])[H:10].[H:11][O:24][H:25],-5.142136
[C:0]([S:1][H:4])([H:2])[H:3].[H:5][H:6]>>[C:0]([S:1][H:4])([H:2])([H:3])[H:6].[H:5],69.0778
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[H:9]>>[C:0]([C:1]([H:6])[H:7])([H:3])([H:4])[H:5].[O:2]([H:8])[H:9],85.6473
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[C:35]([H:36])([H:37])[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][C:35]([H:36])([H:37])[H:38],22.92832
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]1([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]2([H:17])[C:9]([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]1([H:22])[C:12]2([H:23])[H:24]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:17])[H:3].[C:6]1([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]2[C:9]([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]1([H:22])[C:12]2([H:23])[H:24],110.123
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:12](=[C:13]([H:15])[H:16])[H:14])[H:6],-1.84096
[C:0](=[S:1])([H:2])[H:3].[C:4](=[C:5]=[C:6]([H:8])[H:9])[H:7]>>[C:0](=[S:1])[H:3].[H:2][C:4](=[C:5]=[C:6]([H:8])[H:9])[H:7],103.931
[C:0](=[N:1])([H:2])[H:3].[H:4]>>[C:0](#[N:1])[H:3].[H:2][H:4],-3.72376
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:25]([C:24](=[C:23]([H:27])[H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:14])[H:13])([H:11])[H:12],53.0531
